* YAP MOSFET cell library (v1). ngspice. Parts: docs/cells/design.md

.model IRLML6246 VDMOS(Rg=3 Vto=0.9 Rd=15m Rs=15m Rb=20m Kp=25
+ Lambda=0.05 Cgdmax=150p Cgdmin=15p Cgs=200p Cjo=50p Is=1e-12 N=1.2 BV=20)

.model IRLML6401 VDMOS(pchan Rg=6 Vto=-1 Rd=15m Rs=27m Rb=36m Kp=20
+ Lambda=0.05 Cgdmax=400p Cgdmin=31p Cgs=629p Cjo=120p Is=1e-12 N=1.5 BV=12)

* Discrete SOT-23: bulk tied to source.
.subckt INVERTER in out vdd gnd
M1 out in vdd vdd IRLML6401
M2 out in gnd gnd IRLML6246
.ends INVERTER

.subckt NAND a b y vdd gnd
M1 y a vdd vdd IRLML6401
M2 y b vdd vdd IRLML6401
M3 y a mid mid IRLML6246
M4 mid b gnd gnd IRLML6246
.ends NAND

.subckt NOR a b y vdd gnd
M1 y a mid mid IRLML6401
M2 mid b vdd vdd IRLML6401
M3 y a gnd gnd IRLML6246
M4 y b gnd gnd IRLML6246
.ends NOR

.subckt AND a b y vdd gnd
Xn a b n vdd gnd NAND
Xi n y vdd gnd INVERTER
.ends AND

.subckt OR a b y vdd gnd
Xn a b n vdd gnd NOR
Xi n y vdd gnd INVERTER
.ends OR

.subckt XOR a b y vdd gnd
Xo a b o vdd gnd OR
Xn a b n vdd gnd NAND
Xa o n y vdd gnd AND
.ends XOR

* Complementary TG, EN high = on. Back-to-back FETs so body diodes cancel.
.subckt TG in out en vdd gnd
Xinv en enb vdd gnd INVERTER
MN1 midn en in in IRLML6246
MN2 midn en out out IRLML6246
MP1 midp enb in in IRLML6401
MP2 midp enb out out IRLML6401
.ends TG

.subckt MUX2 a b s y vdd gnd
Xinv s sb vdd gnd INVERTER
X0 a y sb vdd gnd TG
X1 b y s vdd gnd TG
.ends MUX2
